### PR TITLE
[Merged by Bors] - feat: port GroupTheory.Perm.Support

### PR DESCRIPTION
**Pull request by mo271**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Perm/Support.lean [hunk 1]
```diff
@@ -0,0 +1,670 @@
...
+  hστ.zpow_disjoint_zpow m n
+#align equiv.perm.disjoint.pow_disjoint_pow Equiv.Perm.Disjoint.pow_disjoint_pow
+
+end Disjoint
+
+section IsSwap
+
+variable [DecidableEq α]
+
+/-- `f.is_swap` indicates that the permutation `f` is a transposition of two elements. -/
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Perm/Support.lean:203]:
```suggestion
/-- `f.IsSwap` indicates that the permutation `f` is a transposition of two elements. -/
```

File: Mathlib/GroupTheory/Perm/Support.lean [hunk 2]
```diff
@@ -0,0 +1,670 @@
...
+  mem_support.mpr fun h2 => mem_support.mp h1 (pow_apply_eq_self_of_apply_eq_self h2 n)
+#align equiv.perm.support_pow_le Equiv.Perm.support_pow_le
+
+@[simp]
+theorem support_inv (σ : Perm α) : support σ⁻¹ = σ.support := by
+  simp_rw [Finset.ext_iff, mem_support, not_iff_not, inv_eq_iff_eq.trans eq_comm, iff_self_iff,
+    imp_true_iff]
+#align equiv.perm.support_inv Equiv.Perm.support_inv
+
+-- Porting note: lower priority to avoid linter complaints about simp-normal form
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Perm/Support.lean:356]: Are you sure the linter didn't have legitimate complaints?

File: Mathlib/GroupTheory/Perm/Support.lean [hunk 3]
```diff
@@ -0,0 +1,670 @@
...
+
+## Main definitions
+
+In the following, `f g : equiv.perm α`.
+
+* `equiv.perm.disjoint`: two permutations `f` and `g` are `disjoint` if every element is fixed
+  either by `f`, or by `g`.
+  Equivalently, `f` and `g` are `disjoint` iff their `support` are disjoint.
+* `equiv.perm.is_swap`: `f = swap x y` for `x ≠ y`.
+* `equiv.perm.support`: the elements `x : α` that are not fixed by `f`.
```
[the remark this answers is not in the document]
Comment (mo271) [reply Mathlib/GroupTheory/Perm/Support.lean]: Tried to get it right. I assume the `def Support` is supposed to be this and not `def support`...

File: Mathlib/GroupTheory/Perm/Support.lean (hunk 2 above)
Comment (mo271) [reply Mathlib/GroupTheory/Perm/Support.lean:356]: No, I'm not sure. There were four such cases, let me comment on them specifically.

File: Mathlib/GroupTheory/Perm/Support.lean [hunk 4]
```diff
@@ -0,0 +1,670 @@
...
+
+@[simp]
+theorem support_inv (σ : Perm α) : Support σ⁻¹ = σ.Support := by
+  simp_rw [Finset.ext_iff, mem_support, not_iff_not, inv_eq_iff_eq.trans eq_comm, iff_self_iff,
+    imp_true_iff]
+#align equiv.perm.support_inv Equiv.Perm.support_inv
+
+-- Porting note: lower priority to avoid linter complaints about simp-normal form
+@[simp 1100]
+theorem apply_mem_support {x : α} : f x ∈ f.Support ↔ x ∈ f.Support := by
```
Comment (mo271) [inline Mathlib/GroupTheory/Perm/Support.lean:358]: Here the linter can solve it with `mem_support`, but `mem_support` is slightly different, so I assumed it would be best to keep both.

File: Mathlib/GroupTheory/Perm/Support.lean [hunk 5]
```diff
@@ -0,0 +1,670 @@
...
+  rw [pow_succ, Perm.mul_apply, apply_mem_support, ih]
+#align equiv.perm.pow_apply_mem_support Equiv.Perm.pow_apply_mem_support
+
+-- Porting note: lower priority to avoid linter complaints about simp-normal form
+@[simp 1200]
+theorem zpow_apply_mem_support {n : ℤ} {x : α} : (f ^ n) x ∈ f.Support ↔ x ∈ f.Support := by
+  cases n
+  · rw [Int.ofNat_eq_coe, zpow_ofNat, pow_apply_mem_support]
+  · rw [zpow_negSucc, ← support_inv, ← inv_pow, pow_apply_mem_support]
+#align equiv.perm.zpow_apply_mem_support Equiv.Perm.zpow_apply_mem_support
```
Comment (mo271) [inline Mathlib/GroupTheory/Perm/Support.lean:376]: Here again, I didn't find a way to make one of them obsolete by explicitly writing the correct coercion.

File: Mathlib/GroupTheory/Perm/Support.lean [hunk 6]
```diff
@@ -0,0 +1,670 @@
...
+theorem card_support_extend_domain (f : α ≃ Subtype p) {g : Perm α} :
+    (g.extendDomain f).Support.card = g.Support.card := by simp
+#align equiv.perm.card_support_extend_domain Equiv.Perm.card_support_extend_domain
+
+end ExtendDomain
+
+section Card
+
+-- Porting note: lower priority to avoid linter complaints about simp-normal form
+@[simp 1200]
```
Comment (mo271) [inline Mathlib/GroupTheory/Perm/Support.lean:576]: Here the linter informs that it can be proved with
`by simp only [@card_eq_zero, @Perm.support_eq_empty_iff]`
But none of these seem to be duplicates of this one.

File: Mathlib/GroupTheory/Perm/Support.lean [hunk 7]
```diff
@@ -0,0 +1,670 @@
...
+# Support of a permutation
+
+## Main definitions
+
+In the following, `f g : equiv.perm α`.
+
+* `Equiv.Perm.Disjoint`: two permutations `f` and `g` are `Disjoint` if every element is fixed
+  either by `f`, or by `g`.
+  Equivalently, `f` and `g` are `Disjoint` iff their `Support` are disjoint.
+* `Equiv.Perm.isSwap`: `f = swap x y` for `x ≠ y`.
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Perm/Support.lean:24]:
```suggestion
* `Equiv.Perm.IsSwap`: `f = swap x y` for `x ≠ y`.
```

File: Mathlib/GroupTheory/Perm/Support.lean [hunk 8]
```diff
@@ -0,0 +1,670 @@
...
+-/
+import Mathlib.Data.Finset.Card
+import Mathlib.Data.Fintype.Basic
+import Mathlib.GroupTheory.Perm.Basic
+/-!
+# Support of a permutation
+
+## Main definitions
+
+In the following, `f g : equiv.perm α`.
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Perm/Support.lean:19]:
```suggestion
In the following, `f g : Equiv.Perm α`.
```

File: Mathlib/GroupTheory/Perm/Support.lean (hunk 5 above)
Comment (jcommelin) [inline Mathlib/GroupTheory/Perm/Support.lean:376]:
```suggestion
-- @[simp] -- Porting note: simp can prove this
theorem apply_mem_support {x : α} : f x ∈ f.Support ↔ x ∈ f.Support := by
  rw [mem_support, mem_support, Ne.def, Ne.def, apply_eq_iff_eq]
#align equiv.perm.apply_mem_support Equiv.Perm.apply_mem_support

-- Porting note: new theorem
@[simp]
theorem apply_pow_apply_eq_iff (f : Perm α) (n : ℕ) {x : α} :
    f ((f ^ n) x) = (f ^ n) x ↔ f x = x := by
  rw [← mul_apply, Commute.self_pow f, mul_apply, apply_eq_iff_eq]

-- @[simp] -- Porting note: simp can prove this
theorem pow_apply_mem_support {n : ℕ} {x : α} : (f ^ n) x ∈ f.Support ↔ x ∈ f.Support := by
  simp only [mem_support, ne_eq, apply_pow_apply_eq_iff]
#align equiv.perm.pow_apply_mem_support Equiv.Perm.pow_apply_mem_support

-- Porting note: new theorem
@[simp]
theorem apply_zpow_apply_eq_iff (f : Perm α) (n : ℤ) {x : α} :
    f ((f ^ n) x) = (f ^ n) x ↔ f x = x := by
  rw [← mul_apply, Commute.self_zpow f, mul_apply, apply_eq_iff_eq]

-- @[simp] -- Porting note: simp can prove this
theorem zpow_apply_mem_support {n : ℤ} {x : α} : (f ^ n) x ∈ f.Support ↔ x ∈ f.Support := by
  simp only [mem_support, ne_eq, apply_zpow_apply_eq_iff]
#align equiv.perm.zpow_apply_mem_support Equiv.Perm.zpow_apply_mem_support
```

File: Mathlib/GroupTheory/Perm/Support.lean [hunk 9]
```diff
@@ -0,0 +1,670 @@
...
+
+end ExtendDomain
+
+section Card
+
+-- Porting note: lower priority to avoid linter complaints about simp-normal form
+@[simp 1200]
+theorem card_support_eq_zero {f : Perm α} : f.Support.card = 0 ↔ f = 1 := by
+  rw [Finset.card_eq_zero, support_eq_empty_iff]
+#align equiv.perm.card_support_eq_zero Equiv.Perm.card_support_eq_zero
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Perm/Support.lean:579]:
```suggestion
-- @[simp] -- Porting note: simp can prove this
theorem card_support_eq_zero {f : Perm α} : f.Support.card = 0 ↔ f = 1 := by
  rw [Finset.card_eq_zero, support_eq_empty_iff]
#align equiv.perm.card_support_eq_zero Equiv.Perm.card_support_eq_zero
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada: 

If CI passes, please remove the label `awaiting-CI` and merge this yourself, by adding a comment `bors r+`.

bors d+

**Comment by mo271** [comment]
Thanks @jcommelin!
bors r+
